US06989392B2
8-((1-ethylpentyl)oxy)quinolin-2-amine
A reaction vessel of the PE Biosystems Solaris 530™ Organic Synthesizer was charged with 230 mg PS-PPh3 resin (Aldrich Chemical Co., Inc, 5.50 equiv), and purged by passing a stream of N2 for 45 seconds. A solution of 2-amino-8-hydroxyquinoline (1.200 mL; 16.6 mg/mL; 0.125 mmol) in anhydr. THF was added to the vessel and the resultant suspension was shaken for 15 min. Then, a solution of DBAD (0.50 mL; 46 mg/mL; 1.6 equiv) in anhydr. THF was added and the contents of the flask were shaken for 10 min. A solution of heptan-3-ol (0.400 mL, 0.400 mM; 1.25 equiv) in anhydr. THF was then added and the resulting suspension was shaken at room temperature for 2 h. Then a solution of DBAD (0.38 mL; 46 mg/mL; 1.6 equiv) in anhydr. THF was added. After 10 minutes of shaking a solution of heptan-3-ol (0.400 mL, 0.400 mM; 1.25 equiv) in anhydr. THF was added and the reaction mixture was shaken for 2 h. The last addition of DBAD was then repeated and the reaction mixture was shaken for an additional 4 h. The resultant suspension was filtered, and the resin washed with THF (2.5, 3.5 and 3.0 mL). The filtrate and washings were combined and evaporated in vacuo. The resulting crude product was then treated with 6.0 mL of 4 M HCl in dioxane at room temperature for 4 h. The resulting solution was evaporated in vacuo. The residue was dissolved in 1.5 mL of a 1:1 mixture of DMSO/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (500 MHz, CDCl3) δ ppm 7.97 (d, 1H), 7.30 (t, 1H), 7.19 (m, 1H), 7.11 (m, 1H), 7.06 (d, 1H), 4.38 (m, 1H), 1.92 (m, 2H), 1.76 (m, 2H), 1.45 (m, 1H), 1.34 (m, 3H), 0.98 (t, 3H), 0.88 (t, 3H); MS (DCI/NH3) m/z 259 [M+H]+.

reactant | PPh3 | 5.50 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-amino-8-hydroxyquinoline | 0.125 mmol, 1.200 mL | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | DBAD | 0.50 mL, 1.6 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | heptan-3-ol | 0.400 mM, 0.400 mL, 1.25 equiv | CCC(CCCC)O | C7H16O
reactant | DBAD | 0.38 mL, 1.6 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | heptan-3-ol | 0.400 mM, 0.400 mL, 1.25 equiv | CCC(CCCC)O | C7H16O
solvent | THF | C1CCOC1 | C4H8O
product | 8-((1-ethylpentyl)oxy)quinolin-2-amine | C(C)C(CCCC)OC=1C=CC=C2C=CC(=NC12)N | C16H22N2O
